US09238639B2
B) 2,5-Dimethyl-3-sulfanylphenol
To a mixture of 3-((4-methoxybenzyl)sulfanyl)-2,5-dimethylphenyl acetate (509.1 mg) and anisole (1.5 mL) was added TFA (5.0 mL) at 0° C. The mixture was stirred at 0° C. for 1 h and warmed to room temperature. Then the mixture was stirred at room temperature for 4 h. The mixture was concentrated. The residue was neutralized with 1N NaOH, and the mixture was extracted with EtOAc. The aqueous layer was acidified with 1N HCl and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (128 mg).

reactant | 3-((4-methoxybenzyl)sulfanyl)-2,5-dimethylphenyl acetate | 509.1 mg | C(C)(=O)OC1=C(C(=CC(=C1)C)SCC1=CC=C(C=C1)OC)C | C18H20O3S
reactant | anisole | 1.5 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | TFA | 5.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2,5-Dimethyl-3-sulfanylphenol | 128 mg | CC1=C(C=C(C=C1S)C)O | C8H10OS
